Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: CARDIOTHORACIC
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
right paratracheal mediastinal
cyst 
 
Major Surgical or Invasive Procedure:
left vats removal of paratracheal cyst

 
History of Present Illness:
Ms. ___ is a ___
female who was found to have a right paratracheal mediastinal
cyst on incidental workup of an upper respiratory infection
approximately a year and a half ago. The patient did not
experience any symptoms due to mass effect of the cyst nor
did she have any superinfection of the cyst. After much
deliberation, the patient decided to have it removed to
prevent future sequelae.

 
Past Medical History:
paratracheal mediastinal cyst, obesity, depression, chronic back 
pain 
 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
VS; 98.6, 78, 110/70, 18, 97% Room air
general: ___ YO F in NAD
HEENT: unremarkable
Chest: breath sounds decreased at the bases otherwise clear. 
Right Vats sites C/D/I w/ steristrips in place.
COR: RRR S1, S2
abd: soft, NT, ND, +BS
extrem: no edema
 
Pertinent Results:
TWO-VIEW CHEST, ___ 
  
COMPARISON: ___. 
  
INDICATION: Chest tube removal. 
  
FINDINGS: Following removal of right chest tube, there is no 
pneumothorax.  
Lung volumes are slightly increased, with associated improvement 
in 
atelectatic changes in the right perihilar and left basilar 
regions. Exam is 
otherwise without substantial change. 
  

 
Brief Hospital Course:
Pt was taken to the OR for right vats removal of paratracheal 
mediastinal mass. See operative note for details of the case. 
Post op pt had ___ drain to sunction w/ minimal drainage 
which was placed to bulb sxn and was removed on POD#2 w/ stable 
CXR. Pain was controlled w/ po dilaudid and motrin. Pt was ___ 
reg diet and ambulating. She was d/c'd to home and will f/u in 2 
weeks.  
 
Medications on Admission:
prilosec 20 QD, tylenol PRN 
 
Discharge Medications:
1. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
2. Hydromorphone 4 mg Tablet Sig: ___ Tablet PO Q4H (every 4 
hours) as needed.
Disp:*100 Tablet(s)* Refills:*0*
3. Ibuprofen 600 mg Tablet Sig: One (1) Tablet PO Q8H (every 8 
hours) as needed.
Disp:*90 Tablet(s)* Refills:*0*
4. Acetaminophen 500 mg Tablet Sig: Two (2) Tablet PO Q6H (every 
6 hours) as needed.  
5. Prilosec 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO once a day.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
right VATS resesction right paratracheal mediastinal cyst

 
Discharge Condition:
good

 
Discharge Instructions:
Call Dr. ___ ___ if you develop increased 
chest pain, shortness of breath, fever, chills, redness or 
drainage from your incision site or any other symptoms that 
concern you.
Take a stool softner while taking your pain medication to 
prevent constipation.
Do not drive while taking pain medication.
You may shower on ___. After showering, you MUST remove the 
dressing and cover the site with a clean dry bandaid. There is a 
stitch in place which we will remove at your follow up visit.
 
Followup Instructions:
___